US05861401
Sodium hydride (oil free; 0.053 g) was added to a solution of 2-amino-5-bromo-3-methoxypyrazine (0.151 g) in DME (5 ml). The solution was stirred for 10 minutes and then a solution of 4'-methyl-2-biphenylsulphonyl chloride (0.198 g) in DME (2 ml) was added. The solution was allowed to stand for 1 hour and then water (25 ml) was added. 2M Hydrochloric acid (2 ml) was added and the mixture was extracted eith ethyl acetate (2×25 ml). The extracts were washed with water (25 ml) and saturated sodium chloride solution (25ml) and dried (MgSO4). Volatile material was removed by evaporation and the residue was recrystallised from ethyl acetate to give N-(5-bromo-3-methoxy-2-pyrazinyl)-4'-methyl-2-biphenylsulphonamide (0.12 g) m.p. 204°-206° C.; 1H NMR (d6 -DMSO): 2.4 (s,3H), 3.85(s,3H), 7.05-7.2(m,4H), 7.3(dd,1H), 7.55-7.7(m,2H), 7.8(s,1H), 8.1(dd,1H); mass spectrum (+ve FAB, methanol/NBA): 436 (M+H)+.

reactant | Sodium hydride | 0.053 g | [H-].[Na+]
reactant | 2-amino-5-bromo-3-methoxypyrazine | 0.151 g | NC1=NC=C(N=C1OC)Br | C5H6BrN3O
reactant | 4'-methyl-2-biphenylsulphonyl chloride | 0.198 g | CC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)Cl | C13H11ClO2S
reactant | Hydrochloric acid | 2M, 2 ml | Cl | ClH
solvent | DME | 5 ml | COCCOC | C4H10O2
solvent | DME | 2 ml | COCCOC | C4H10O2
solvent | water | 25 ml | O | H2O
product | N-(5-bromo-3-methoxy-2-pyrazinyl)-4'-methyl-2-biphenylsulphonamide | 0.12 g | BrC=1N=C(C(=NC1)NS(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C)OC | C18H16BrN3O3S
